US07678818B2
b) Preparation of 4-(1-fluoro-cyclobutyl)-benzaldehyde
The title compound was synthesized in analogy to 4-cyclopropyl benzaldehyde (described in example S1-A) using 1.64 g of 1-bromo-4-(1-fluoro-cyclobutyl)-benzene (7.16 mmol), 4.92 ml of a 1.6 molar solution of n-BuLi in hexane (7.87 mmol) and 1.1 ml of DMF (14.32 mmol). 4-(1-Fluoro-cyclobutyl)-benzaldehyde was isolated crude as a light yellow liquid (1.23 g, 96%). 1H NMR (CDCl3, 300 MHz): δ 1.84 (m, 1H), 2.15 (m, 1H), 2.49-2.81 (m, 5H), 7.63 (d, J=8 Hz, 2H), 7.92 (d, J=8 Hz, 2H), 10.03 (s, 1H).

reactant | 4-cyclopropyl benzaldehyde | C1(CC1)C1=CC=C(C=O)C=C1 | C10H10O
reactant | 1-bromo-4-(1-fluoro-cyclobutyl)-benzene | 7.16 mmol, 1.64 g | BrC1=CC=C(C=C1)C1(CCC1)F | C10H10BrF
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 7.87 mmol | CCCCCC | C6H14
reactant | DMF | 14.32 mmol, 1.1 ml | CN(C)C=O | C3H7NO
product | 4-(1-Fluoro-cyclobutyl)-benzaldehyde | FC1(CCC1)C1=CC=C(C=O)C=C1 | C11H11FO
